US07790728B2
1-(4-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione
To a stirred cooled solution (−60° C.) of oxalyl chloride (3.55 mL, 40.8 mmol) in CH2Cl2 (16 mL) a solution of dimethyl sulfoxide (4.0 mL) in CH2Cl2 was added dropwise. Five minutes later a solution of 1-(4-fluorophenyl)-2-pyridin-4-ylethane-1,2-diol (4.0 g, 17 mmols) in DMSO/CH2Cl2 (32 mL/13 mL) was dropped. The mixture was allowed to stir for 30 min at −60° C. and then triethylamine (24 mL) was added. When the reaction reached room temperature was diluted with water and dichloromethane. The organic phases were washed with water and brine and dried (MgSO4). After removal of the solvent under vacuum, the resulting solid was triturated with hexane to afford the title compound as an orange solid (3.68 g, 94%).

reactant | oxalyl chloride | 40.8 mmol, 3.55 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 4.0 mL | CS(=O)C | C2H6OS
reactant | 1-(4-fluorophenyl)-2-pyridin-4-ylethane-1,2-diol | 17 mmols, 4.0 g | FC1=CC=C(C=C1)C(C(O)C1=CC=NC=C1)O | C13H12FNO2
reactant | triethylamine | 24 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO CH2Cl2 | 32 mL | CS(=O)C.C(Cl)Cl
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione | 3.68 g, 94% | FC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)=O | C13H8FNO2
